US05081149
S-(α, β-Dicarboxyethyl)glutathione
Glutathione (9.2 g) and 5.0 g of maleic acid are dissolved in 150 ml of water and the solution is allowed to stand at room temperature for 12 hours. The reaction mixture is sampled (one or two drops) and one drop of 0.01N I2 test solution is added to the sample. After confirming, in this manner, that there is no more iodine consumption, 6.6 g of copper acetate (monohydrate) is added to the reaction mixture. If a precipitate, which is small in amount, is found, the precipitate is filtered off. The filtrate is concentrated to about 70 ml, ethanol is added to the concentrate, and the resulting blue copper salt precipitate is collected by filtration. This is recrystallized from water-ethanol. This copper salt is further dissolved in 200 ml of water, hydrogen sulfide is passed through the solution to cause precipitation of copper sulfide, and the precipitate is filtered off. The filtrate is concentrated under reduced pressure and ethanol is added to the residue, whereupon white crystals appear. The crystals are collected by filtration, washed with ethanol and recrystallized from water-ethanol to give about 9 g of the desired compound as white amorphous crystals (hygroscopic).

reactant | Glutathione | 9.2 g | N[C@H](C(=O)O)CCC(=O)N[C@@H](CS)C(=O)NCC(=O)O | C10H17N3O6S
reactant | maleic acid | 5.0 g | C(\C=C/C(=O)O)(=O)O | C4H4O4
solvent | water | 150 ml | O | H2O
catalyst | I2 | 0.01N, one drop | II | I2
product | S-(α, β-Dicarboxyethyl)glutathione | about 9 g | C(=O)(O)C(CC(=O)O)SC[C@H](NC(CC[C@H](N)C(=O)O)=O)C(=O)NCC(=O)O | C14H21N3O10S
